US05932601
A mixture of 3-fluoro-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)nitrobenzene (13.6 g), palladium-carbon (5%, 2.0 g) and tetrahydrofuran (THF) (200 ml) was subjected to catalytic hydrogenation under 1 atmospheric pressure at room temperature. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to yield 3-fluoro-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)aniline as an oily product.

reactant | 3-fluoro-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)nitrobenzene | 13.6 g | FC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)[N+](=O)[O-] | C17H13FN2O4
catalyst | palladium-carbon | 2.0 g | [C].[Pd]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-fluoro-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)aniline | FC=1C=C(N)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15FN2O2
